Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: CT-guided drainage of pelvic collection, removal of 
malpositioned drain 

 
History of Present Illness:
___ with 2 months of lower abdominal pain who ___ early ___ was
diagnosed with perforated sigmoid diverticulitis at ___. The patient reports that he was started on IV
antibiotics and a percutaneous drain was placed. He was
discharged home with the drain to complete 14 days of 
antibiotics
which he completed on ___.

He presents today with persistent lower abdominal pain, no other
symptoms. He was prescribed Percocet and has taken all his pills
but continues to have pain. His bowel movements have been as
usual, no blood. No urinary symptoms. No fevers. The drain is
putting out serous fluid, scant amounts. He has never had a
colonoscopy. 

 
Past Medical History:
PMH: sigmoid diverticulitis with abscess
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
T 98.1    HR 69    BP 112/67     RR 18     SatO2 96% RA 
NAD, alert, oriented
CTA bil
RRR
Abdomen soft, tender to palpation ___ lower abdomen, no 
peritoneal
signs
Drain with tan, serous fluid
Extremities no edema

Discharge Physical Exam:
VS: 97.9, 120/80, 80, 16, 95 Ra
Gen: A&O x3, ___ NAD
CV: HRR
Pulm: LS ctab
Abd: soft, mildly TTP ___ lower pelvic area and around drain. ___ 
drain ___ RLQ, with cloudy serosanguinous output. 
Ext: No edema 
 
Pertinent Results:
___ 10:10AM BLOOD WBC-8.1 RBC-4.09* Hgb-12.6* Hct-38.0* 
MCV-93 MCH-30.8 MCHC-33.2 RDW-12.6 RDWSD-43.4 Plt ___
___ 05:35AM BLOOD WBC-12.6* RBC-4.11* Hgb-12.5* Hct-37.8* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-12.8 RDWSD-43.0 Plt ___
___ 12:17PM BLOOD WBC-11.6* RBC-4.20* Hgb-12.9* Hct-38.6* 
MCV-92 MCH-30.7 MCHC-33.4 RDW-12.9 RDWSD-43.6 Plt ___
___ 10:10AM BLOOD Glucose-120* UreaN-11 Creat-1.0 Na-139 
K-4.9 Cl-97 HCO3-27 AnGap-15
___ 05:35AM BLOOD Glucose-87 UreaN-12 Creat-1.1 Na-138 
K-5.1 Cl-95* HCO3-27 AnGap-16
___ 12:17PM BLOOD Glucose-113* UreaN-12 Creat-1.2 Na-135 
K-4.7 Cl-94* HCO3-23 AnGap-___/P:
Perforated diverticulitis with abscess ___ the mid pelvis.
Malpositioned drain terminates ___ the subcutaneous tissues of 
the
anterior abdominal wall. 

___ Report:
1. Successful CT-guided placement of an ___ pigtail 
catheter into the 
collection. Samples were sent for microbiology evaluation. 
2. Removal pre-existing drain. 

___ 12:03 pm ABSCESS      Source: pelvic abscess. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___, performed at  Lab): 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    MODERATE 
GROWTH. 
         Penicillin MIC >=8 MCG/ML. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          STREPTOCOCCUS ANGINOSUS 
(___) GROU
                             |          |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S        1 S
CIPROFLOXACIN---------   =>4 R
CLINDAMYCIN-----------           <=0.25 S
ERYTHROMYCIN----------           <=0.12 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PENICILLIN G----------                  R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R
VANCOMYCIN------------              0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on ___ 
for evaluation and treatment of abdominal pain ___ the setting of 
a recent treatment at an outside hospital for diverticulitis 
with an abscess ___ which a drain had been placed.  Admission 
abdominal/pelvic CT revealed perforated diverticulitis with 
abscess ___ the mid pelvis and a malpositioned drain  that 
terminates ___ the subcutaneous tissues of the anterior abdominal 
wall.  The patient was hemodynamically stable. WBC was slightly 
elevated at 11.6. The patient was placed on bowel rest with IV 
fluids and IV antibiotics. He was taken to Interventional 
Radiology where he underwent removal of pre-existing drain and 
CT-guided placement of an ___ pigtail catheter into the 
collection. He tolerated the procedure well.  

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. WBC 
normalized. Antibiotics were transitioned to the oral form. The 
patient voided without problem. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated ___ the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay. ___ RN did drain teaching with him and his girlfriend, who 
stated they were already comfortable with drain care since he'd 
had one for 2 weeks at home already. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient and his girlfriend received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. They would come to clinic for 
follow-up ___ 2 weeks for potential drain pull and to discuss 
surgery. 

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*24 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*36 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*20 Packet Refills:*0 
7.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % 10 mL ___ drain daily Disp #*30 
Syringe Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
[] Perforated diverticulitis with pelvic abscess
[] Malpositioned drain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain and on CT scan 
were found to have a large pelvic abscess related to your 
diverticulitis. The current ___ drain had migrated and was no 
longer draining the abscess. You were started on antibiotics and 
taken to Interventional Radiology where the prior drain was 
removed and a new drain was placed. Your pain is well controlled 
now and you are tolerating a regular diet and moving your 
bowels. Your lab work has normalized. You are medically clear 
for discharge home to continue your recovery. You will be 
discharged with the new drain and flushes. You will need to 
complete a 2-week course of antibiotics and follow-up with Dr 
___ ___ the ___ Care Surgery clinic to discuss drain 
removal. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood ___ your 
urine, or experience a discharge.
*Your pain ___ not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change ___ your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid ___ the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes ___ character.
*Be sure to empty the drain frequently. Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself ___ 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___